US08486943B2
(2R,3S)-2-((S)-7-Cyano-2-isopropoxycarbonylamino-2,3-dihydro-1H-cyclopenta[b]indol-4-ylmethyl)-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester
A mixture of ((S)-7-cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester (1.50 g, 5.29 mmol), (2R,3S)-3-hydroxy-2-methanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (3.13 g, 10.59 mmol), cesium carbonate (3.45 g, 10.59 mmol), and potassium iodide (88 mg, 529 μmol) in dimethylformamide (50 mL) is heated in a 60° C. oil bath for two days. After cooling to ambient temperature, the reaction is diluted with ethyl acetate (120 mL) and washed with water (3×100 mL) and brine. The organic portion is dried over sodium sulfate, filtered, and concentrated to dryness. The resulting residue is purified by medium pressure liquid chromatography, eluting with ethyl acetate:chloroform (2:8). Fractions containing pure product are combined and concentrated to afford 1.59 g (62%) of the title compound. LC-ES/MS m/z 505.2 [M+Na]+, TR=3.97 min.

reactant | ((S)-7-cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester | 5.29 mmol, 1.50 g | C(C)(C)OC(N[C@H]1CC2=C(NC=3C=CC(=CC23)C#N)C1)=O | C16H17N3O2
reactant | (2R,3S)-3-hydroxy-2-methanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 10.59 mmol, 3.13 g | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)O)COS(=O)(=O)C | C11H21NO6S
reactant | cesium carbonate | 10.59 mmol, 3.45 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 529 μmol, 88 mg | [I-].[K+]
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
product | (2R,3S)-2-((S)-7-Cyano-2-isopropoxycarbonylamino-2,3-dihydro-1H-cyclopenta[b]indol-4-ylmethyl)-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.59 g, 62% | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)O)CN1C2=C(C=3C=C(C=CC13)C#N)C[C@@H](C2)NC(=O)OC(C)C | C26H34N4O5
